US07691882B2
4-Butoxymethyl-benzylamine
To a mixture of lithium aluminum hydride (600 mg, 13 mmol, purity: 80%) and tetrahydrofuran (10 mL) was added a mixture of 4-butoxymethyl-benzonitrile (600 mg, 3.2 mmol) described in Manufacturing Example 33-1-1 and tetrahydrofuran (10 mL) at 0° C., which was stirred for 4 hours at room temperature. 28% Aqueous ammonia solution was added dropwise to the reaction mixture at 0° C. The reaction mixture was warmed to room temperature and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (620 mg, 101%) as a crude product.

reactant | lithium aluminum hydride | 13 mmol, 600 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-butoxymethyl-benzonitrile | 3.2 mmol, 600 mg | C(CCC)OCC1=CC=C(C#N)C=C1 | C12H15NO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Butoxymethyl-benzylamine | 620 mg, 101% | C(CCC)OCC1=CC=C(CN)C=C1 | C12H19NO
